US06498264B2
Acryloxy-tert-butyldiisopropylsilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 41.4 g (0.20 mol) of tert-butyldiisopropylchlorosilane, 60 ml of By toluene, and 0.06 g of 2,6-di-tert-butyl-4-methylphenol. At room temperature, 22.3 g (0.22 mol) of triethylamine was added dropwise over one hour. At the end of dropwise addition, the flask was heated at 80° C. After the internal temperature became constant, 15.9 g (0.22 mol) of acrylic acid was added dropwise over one hour. After the completion of dropwise addition, the reaction solution was stirred for 2 hours at 80° C. The reaction solution was then cooled to room temperature, and the resulting hydrochloric acid salt removed by filtration. The filtrate was distilled, collecting 42.9 g of a fraction having a boiling point of 80-83° C./0.27 kPa.

reactant | tert-butyldiisopropylchlorosilane | 0.20 mol, 41.4 g | C(C)(C)(C)[Si](Cl)(C(C)C)C(C)C | C10H23ClSi
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.06 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | triethylamine | 0.22 mol, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | acrylic acid | 0.22 mol, 15.9 g | C(C=C)(=O)O | C3H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Acryloxy-tert-butyldiisopropylsilane | C(C=C)(=O)O[Si](C(C)C)(C(C)C)C(C)(C)C | C13H26O2Si
